US04182776
p-{[2-(2-Naphthyloxy)ethyl]amino}benzoic acid
A mixture of 3.0 g of ethyl p-{[2-(2-naphthyloxy)-ethyl]amino}benzoate, and 3.0 g of potassium hydroxide in 200 ml of ethanol-water (95:5) is refluxed for 3 hours. The mixture is diluted with 100 ml of water and brought to pH 6.0 with concentrated hydrochloric acid. The mixture is filtered and the solid washed with 50 ml of water and 20 ml of cold ethanol-water (4:1) to give the product, mp 208°-211° C.

reactant | ethyl p-{[2-(2-naphthyloxy)-ethyl]amino}benzoate | 3.0 g | C1=C(C=CC2=CC=CC=C12)OCCNC1=CC=C(C(=O)OCC)C=C1 | C21H21NO3
reactant | potassium hydroxide | 3.0 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol water | 200 ml | C(C)O.O
solvent | water | 100 ml | O | H2O
product | p-{[2-(2-Naphthyloxy)ethyl]amino}benzoic acid | C1=C(C=CC2=CC=CC=C12)OCCNC1=CC=C(C(=O)O)C=C1 | C19H17NO3
